.SUBCKT PDTC114TU BASE EMITTER COLLECTOR

RB BASE 4 10000

Q1 COLLECTOR 4 EMITTER QINT

.MODEL QINT NPN
+ IS = 1.822E-14
+ NF = 0.9932
+ ISE = 2.894E-16
+ NE = 1.4
+ BF = 354.4
+ IKF = 0.246
+ VAF = 182
+ NR = 0.9931
+ ISC = 9.982E-12
+ NC = 1.763
+ BR = 14.99
+ IKR = 0.05
+ VAR = 17.9
+ RB = 10
+ IRB = 5E-06
+ RBM = 5
+ RE = 0.649
+ RC = 1.101
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.32E-11
+ VJE = 0.8401
+ MJE = 0.3622
+ TF = 1E-32
+ XTF = 0
+ VTF = 1E+03
+ ITF = 0
+ PTF = 0
+ CJC = 3.821E-12
+ VJC = 0.5986
+ MJC = 0.3745
+ XCJC = 0.6193
+ TR = 1E-32
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.5
.ENDS

